US05236952
4.2 g of 5-(bromoacetyl)-2,3-dimethoxybenzonitrile dissolved in 150 ml of methylene chloride are treated with 8.9 ml of boron tribromide. The reaction mixture is stirred at 20° for 18 hours. It is subsequently poured into 220 ml of saturated sodium hydrogen carbonate solution and 100 g of ice, adjusted to pH 6 with glacial acetic acid and extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated. There is obtained 5-(bromoacetyl)-2,3-dihydroxybenzonitrile as an amorphous solid.

reactant | 5-(bromoacetyl)-2,3-dimethoxybenzonitrile | 4.2 g | BrCC(=O)C=1C=C(C(=C(C#N)C1)OC)OC | C11H10BrNO3
reactant | boron tribromide | 8.9 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | 220 ml | C(O)([O-])=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 5-(bromoacetyl)-2,3-dihydroxybenzonitrile | BrCC(=O)C=1C=C(C(=C(C#N)C1)O)O | C9H6BrNO3
